US07851626B2
rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazol-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-methylsulfonyl-piperazine (Aldrich) to give the title compound. LC-MS: 659.2 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C27H25Cl3N2O3
reactant | 1-methylsulfonyl-piperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
product | rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazol-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@@H]1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)S(=O)(=O)C)C1=C(C=C(C=C1)OC)OC(C)C)C | C32H36Cl2N4O5S
